US05344843
A solution of 2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid methyl ester (0.6 g) in warm methanol (10 mL) and tetrahydrofuran (10 mL) was treated with 1N sodium hydroxide (2 mL) and after 10 minutes the mixture was diluted with water and concentrated to remove the organic solvents. The residue was acidified with excess hydrochloric acid and extracted with dichloromethane containing a little tetrahydrofuran. The organic layer was washed with water, dried (Na2SO4), filtered and evaporated to give crude product. Crystallization from dichloromethane-hexane provided 0.52 g of purified 2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid (4:1) hydrate as a colorless solid, mp 129°-131° C.

reactant | 2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.6 g | COC(C(C1=C(C=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)C)=O)=O | C22H20O5
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]-alpha-oxobenzeneacetic acid | 0.52 g | CC1=C(C=CC(=C1)OCCOC1=CC2=CC=CC=C2C=C1)C(C(=O)O)=O | C21H18O5
